US05015640
starting from 2-[(isopropylideneamino)oxy]-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and benzoyl chloride, there is obtained 2-[(isopropylideneamino)oxy]-ethyl N-benzoyl-5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 441 (11), 341 (39), 194 (100), 105 (60), 100 (60);

reactant | 2-[(isopropylideneamino)oxy]-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCON=C(C)C)=N | C20H23N3O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-[(isopropylideneamino)oxy]-ethyl N-benzoyl-5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C(C1=CC=CC=C1)(=O)N=C(OCCON=C(C)C)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C27H27N3O3
